US04628115
Preparation of 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)-2-hexynal
To 2.07 g of 1-[2-hydroxy-4-[(6-hydroxy-4-hexynyl)oxy]-3-propylphenyl]ethanone in 150 ml of methylene chloride at 25° was added 20.7 g of activated manganese oxide and the mixture was stirred for 2 hours. After filtration, the filtrate was concentrated in vacuo to yield 1.50 g (73% yield) of the titled compound.

reactant | 1-[2-hydroxy-4-[(6-hydroxy-4-hexynyl)oxy]-3-propylphenyl]ethanone | 2.07 g | OC1=C(C=CC(=C1CCC)OCCCC#CCO)C(C)=O | C17H22O4
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese oxide | 20.7 g | [O-2].[Mn+2]
product | 6-(4-Acetyl-3-hydroxy-2-propylphenoxy)-2-hexynal | 1.50 g, 73% yield | C(C)(=O)C1=C(C(=C(OCCCC#CC=O)C=C1)CCC)O | C17H20O4
